US06222062B1
2-[3-(2,6,6-Trimethyl-cyclohex-1-enyl)-acryloyl]-malonic acid bis-(3,7-dimethyl-oct6-enyl) ester
According to the procedure of Example 45, 2-[3-(2,6,6-trimethyl-cyclohex-1-enyl)-acryloyl]-malonic acid bis-3,7-dimethyl-oct-6-enyl) ester was prepared from malonic acid bis-(3,7-dimethyl-oct-6-enyl) ester, 3-(2,6,6-trimethyl-cyclohex-1-enyl)acryloyl chloride (Shimasaki et al., Chem. Pharm. Bull., 43 (1995) 1, 100-107) and sodium hydride.

reactant | 2-[3-(2,6,6-trimethyl-cyclohex-1-enyl)-acryloyl]-malonic acid | CC1=C(C(CCC1)(C)C)C=CC(=O)C(C(=O)O)C(=O)O | C15H20O5
reactant | malonic acid bis-(3,7-dimethyl-oct-6-enyl) ester | CC(CCOC(CC(=O)OCCC(CCC=C(C)C)C)=O)CCC=C(C)C | C23H40O4
reactant | 3-(2,6,6-trimethyl-cyclohex-1-enyl)acryloyl chloride | CC1=C(C(CCC1)(C)C)C=CC(=O)Cl | C12H17ClO
reactant | sodium hydride | [H-].[Na+]
product | 2-[3-(2,6,6-Trimethyl-cyclohex-1-enyl)-acryloyl]-malonic acid bis-(3,7-dimethyl-oct6-enyl) ester | CC(CCOC(C(C(=O)OCCC(CCC=C(C)C)C)C(C=CC1=C(CCCC1(C)C)C)=O)=O)CCC=C(C)C | C35H56O5
